US08859566B2
A mixture of 1-(3-fluoro-4-trifluoromethyl-benzyl)-1H-pyrazole-4-carboxylic acid (6-amino-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-amide (0.8 g, 1.76 mmol), POCl3 (25 ml) and PCl5 (0.2 g) were heated at 125-130° C. for 20 hours. Reaction mixture was cooled to 20-25° C. and it was concentrated under vacuum. To this reaction mixture brine (50 ml) was added and extracted with ethyl acetate (3×2 ml). The combined organic layer was dried over Na2SO4 and evaporated to dryness. The crude product was purified by column chromatography using silica gel (100-200 mesh) and 2 to 4% methanol in DCM as an eluent to obtain 2-Chloro-8-[1-(3-fluoro-4-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1-propyl-1,7-dihydro-purin-6-one (0.4 g, 50%) as a pale brown solid.

reactant | 1-(3-fluoro-4-trifluoromethyl-benzyl)-1H-pyrazole-4-carboxylic acid (6-amino-2,4-dioxo-3-propyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-amide | 1.76 mmol, 0.8 g | NC1=C(C(N(C(N1)=O)CCC)=O)NC(=O)C=1C=NN(C1)CC1=CC(=C(C=C1)C(F)(F)F)F | C19H18F4N6O3
reactant | POCl3 | 25 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | PCl5 | 0.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 2-Chloro-8-[1-(3-fluoro-4-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1-propyl-1,7-dihydro-purin-6-one | 0.4 g, 50% | ClC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=C(C=C1)C(F)(F)F)F)=O)CCC | C19H15ClF4N6O
